US08012976B2
A mixture of 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (80 mg, 0.21 mmol), dimethylamine (47 mg, 1.04 mmol) and acetic acid (62 mg, 1.04 mmol) in methanol (50 mL) was stirred at room temperature for 60 min. Then the mixture was cooled to 0° C. Sodium cyanoborohydride (20 mg, 0.3 mmol) was added. After the addition, the mixture was stirred at room temperature for overnight. Methanol was removed under reduced pressure. The crude product was purified by pre-HPLC to give 8-(4-((dimethylamino)methyl)phenyl)-9-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (21 mg, yield 24%). 1H-NMR (400 MHz, CD3OD) δ (ppm): 2.82 (s, 6H), 4.26 (s, 2H), 4.32 (d, J=8.0 Hz, 1H), 4.77 (d, J=8.0 Hz, 1H), 6.93-6.95 (m, 2H), 7.10-7.11 (m, 2H), 7.23 (m, 1H), 7.40-7.41 (m, 4H), 7.59 (d, J=8.0 Hz, 1H), 7.65 (t, J=8.0 Hz, 1H). 19F-NMR (400 MHz, CD3OD) δ (ppm): −77.09, −118.00; LC-MS (ESI) m/z: 415 (M+1)+.

reactant | 4-(9-(4-fluorophenyl)-3-oxo-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 0.21 mmol, 80 mg | FC1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=C(C=O)C=C2 | C23H16FN3O2
reactant | dimethylamine | 1.04 mmol, 47 mg | CNC | C2H7N
reactant | acetic acid | 1.04 mmol, 62 mg | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 0.3 mmol, 20 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 8-(4-((dimethylamino)methyl)phenyl)-9-(4-fluorophenyl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 21 mg, yield 24% | CN(C)CC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=C(C=C1)F | C25H23FN4O
